US07326710B2
(IV-18) N1-(1-benzoylethyl)-N4-[(2-hydroxy)phenylacetyl]piperazine hydrochloride
A mixture of 2-bromo-1-phenylpropan-1-one (3 mmol), N-(2-hydroxy-phenyl acetyl)piperazine hydrochloride (2.5 mmol) and K2CO3 (8.75 mmol) in 30 ml of DMF was treated according to the general preparation 2 to give compound (IV-18), 0.65 g (67%), M+ 353.

reactant | 2-bromo-1-phenylpropan-1-one | 3 mmol | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | N-(2-hydroxy-phenyl acetyl)piperazine hydrochloride | 2.5 mmol | Cl.OC1=C(C=CC=C1)CC(=O)N1CCNCC1
reactant | K2CO3 | 8.75 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N1-(1-benzoylethyl)-N4-[(2-hydroxy)phenylacetyl]piperazine hydrochloride | Cl.C(C1=CC=CC=C1)(=O)C(C)N1CCN(CC1)C(CC1=C(C=CC=C1)O)=O | InChI=1S/C21H24N2O3.ClH/c1-16(21(26)17-7-3-2-4-8-17)22-11-13-23(14-12-22)20(25)15-18-9-5-6-10-19(18)24;/h2-10,16,24H,11-15H2,1H3;1H
